US05114960
5 g of methyl 3-(4-chlorophenyl)-3a,5,6,7,8,8a-hexahydro-8a-pyrrolidino-4H-cyclohept[d]isoxazole-7-carboxylate in 5 ml of concentrated sulfuric acid, 5 ml of acetic acid and ml of water were heated at 120° C. for 5 hours. The separated product was filtered off, washed with water and dried in vacuo to give 3.1 of 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid of melting point 215°-217° C.

reactant | methyl 3-(4-chlorophenyl)-3a,5,6,7,8,8a-hexahydro-8a-pyrrolidino-4H-cyclohept[d]isoxazole-7-carboxylate | 5 g | ClC1=CC=C(C=C1)C1=NOC2(C1CCCC(C2)C(=O)OC)N2CCCC2 | C20H25ClN2O3
reactant | water | O | H2O
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylic acid | ClC1=CC=C(C=C1)C1=NOC2=C1CCCC(C2)C(=O)O | C15H14ClNO3
